US04645844
Preparation of p-carbomethoxyphenoxypropyl methyldimethoxysilane
Using the general procedure described in Example 1 a reactor was charged with 83.7 g (0.55 mole) of methyl-p-hydroxybenzoate, 43.28 g of a 50% by weight aqueous solution of sodium hydroxide (0.54 mole NaOH), 112 cc dimethylsulfoxide and 120 cc toluene. The resultant mixture was heated to the boiling point for six hours under a nitrogen atmosphere to remove all of the water present by azeotropic distillation. The reaction mixture was then allowed to cool to about 75° C. at which time 109 g (0.56 mole) of 3-chloropropyl trimethoxysilane were added dropwise while the reaction mixture was stirred. Following completion of the addition the reaction mixture was heated at 115° C. for about 16 hours, following which the mixture was allowed to cool and was filtered to remove any sold material. The solvents were then removed under a pressure of about 15 mm of mercury at a temperature of about 60° C. The pressure was then reduced to 2 mm of mercury and the material boiling from 230° to 235° C. was collected. The weight of this fraction was equivalent to a yield of 92% based on starting materials. Analysis by vapor phase chromatography indicated that the purity of the product was greater than 98%. The infrared and nuclear magnetic resonance spectra of the product was consistent with the proposed structure.

reactant | methyl-p-hydroxybenzoate | 0.55 mole, 83.7 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | sodium hydroxide | 0.54 mole | [OH-].[Na+]
reactant | dimethylsulfoxide | 112 cc | CS(=O)C | C2H6OS
reactant | 3-chloropropyl trimethoxysilane | 0.56 mole, 109 g | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
solvent | toluene | 120 cc | C1(=CC=CC=C1)C | C7H8
product | p-carbomethoxyphenoxypropyl methyldimethoxysilane | yield of 92% | C(=O)(OC)C1=CC=C(OCCC[Si](OC)(OC)C)C=C1 | C14H22O5Si
